US04638000
In 5 ml of 5 N hydrogen chloride-ethyl acetate solution is dissolved 0.1 g of 3(R)-[1(S)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, and the solution is left standing at room temperature for 3 hours. Petroleum ether (50 ml) is added to the solution and the deposited precipitate is dried under reduced pressure to give 0.076 g of 3(R)-[1(S)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5acetic acid hydrochloride as a colorless powder.

reactant | 3(R)-[1(S)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.1 g | C(C)OC(=O)[C@H](CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2CSC1=C(N(C2=O)CC(=O)[O-])C=CC=C1
reactant | hydrogen chloride-ethyl acetate | 5 N, 5 ml | C(C)(=O)OCC.Cl
product | 3(R)-[1(S)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5acetic acid hydrochloride | 0.076 g | Cl.C(C)OC(=O)[C@H](CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2CSC1=C(N(C2=O)CC(=O)O)C=CC=C1 | InChI=1S/C31H37N3O7S.ClH/c1-2-41-31(40)23(32-24-20-42-26-17-11-10-16-25(26)34(30(24)39)19-27(35)36)15-7-5-3-4-6-12-18-33-28(37)21-13-8-9-14-22(21)29(33)38;/h8-11,13-14,16-17,23-24,32H,2-7,12,15,18-20H2,1H3,(H,35,36);1H/t23-,24-;/m0./s1
